US05371093
α-[1-[2-(4-Methoxyphenyl)ethyl]-4-piperidinyl]-α-(thiophene-2-yl)-2-thiophenemethanol
Dissolve 1-[2-(4-methoxyphenyl)ethyl]-4-piperidinecarboxylic acid, methyl ester (4.0 g, 14.42 mmol) in anhydrous tetrahydrofuran (100 mL), place under an argon atmosphere and cool to -78° C. Add, by dropwise addition, 2-lithiothiophene (14.42 mL of a 1M solution in tetrahydrofuran, 14.42 mmol) and stir at -78° C. for 3 hours. Add additional 2-lithiothiophene (14.42 mL of a 1M solution in tetrahydrofuran, 14.42 mmol) and stir at -78° C. for 2 hours. Remove the ice bath and allow to warm to room temperature. Quench with saturated ammonium chloride (100 mL), separate the organic phase and extract the aqueous phase with ethyl acetate. Combine the organic phases, dry (MgSO4) and evaporate the solvent in vacuo. Purify by chromatography (ethyl acetate) and recrystallize (ethyl acetate) to give the title compound as fluffy white crystals; mp 153°-155° C.

reactant | 1-[2-(4-methoxyphenyl)ethyl]-4-piperidinecarboxylic acid, methyl ester | 14.42 mmol, 4.0 g | COC1=CC=C(C=C1)CCN1CCC(CC1)C(=O)OC | C16H23NO3
reactant | 2-lithiothiophene | [Li]C=1SC=CC1
solvent | tetrahydrofuran | 100 mL | O1CCCC1 | C4H8O
product | α-[1-[2-(4-Methoxyphenyl)ethyl]-4-piperidinyl]-α-(thiophene-2-yl)-2-thiophenemethanol | COC1=CC=C(C=C1)CCN1CCC(CC1)C(O)(C=1SC=CC1)C=1SC=CC1 | C23H27NO2S2
